US08044208B2
a) Diethyl 2-[1-(toluene-4-sulfonyl)-1H-imidazol-4-yl]malonate
A solution of 1.000 g (3.243 mmol) of ethyl [1-(toluene-4-sulfonyl)-1H-imidazol-4-yl]-acetate was dissolved in 20 ml of THF and cooled to 0° C. Over a period of 10 min, 3.567 ml of lithium bis(trimethylsilyl)amide (3.567 mmol, 1M in THF) were added dropwise. This mixture was stirred at 0° C. for 30 min, 350 μl (3.567 mmol) of ethyl cyanoformate were then added and the mixture was stirred at RT for another 2 h. The reaction mixture was quenched with saturated ammonium chloride solution and extracted with ethyl acetate. The organic phase was washed with water and saturated NaCl solution, dried over Na2SO4, filtered and concentrated. Chromatography on silica gel (heptane/ethyl acetate 1:1) gave the title compound (0.390 g, 32%).

reactant | ethyl [1-(toluene-4-sulfonyl)-1H-imidazol-4-yl]-acetate | 3.243 mmol, 1.000 g | C1(=CC=C(C=C1)S(=O)(=O)N1C=NC(=C1)CC(=O)OCC)C | C14H16N2O4S
reactant | lithium bis(trimethylsilyl)amide | 3.567 mmol, 1M, 3.567 ml | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | ethyl cyanoformate | 3.567 mmol, 350 μl | C(#N)C(=O)OCC | C4H5NO2
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | Diethyl 2-[1-(toluene-4-sulfonyl)-1H-imidazol-4-yl]malonate | 0.390 g, 32% | C1(=CC=C(C=C1)S(=O)(=O)N1C=NC(=C1)C(C(=O)OCC)C(=O)OCC)C | C17H20N2O6S
